US05364866
6-Fluoro-3-(3-pyrrolidinyl)-1,2-benzisoxazole hydrochloride
A mixture of 3-(6-fluoro-1,2-benzisoxazol-3-yl)-1-pyrrolidinylcarboxylic acid ethenyl ester (5.1 g, 18.4 mmol, hydrochloric acid (5 ml), and isopropyl alcohol (50 ml) was heated at reflux for 3.5 hr. At the end of the reaction, the solvent was reduced to about 30 ml on a rotary evaporator and the mixture was cooled to 0° C. for 2 hr. The crystals were collected by filtration and rinsed with cold isopropyl alcohol. The 6-fluoro-3-(3-pyrrolidinyl)-1,2-benzisoxazole hydrochloride product weighed 3.09 g (69%), m.p.=225°-227° C.

reactant | 3-(6-fluoro-1,2-benzisoxazol-3-yl)-1-pyrrolidinylcarboxylic acid ethenyl ester | C(=C)OC(=O)N1CC(CC1)C1=NOC2=C1C=CC(=C2)F | C14H13FN2O3
reactant | hydrochloric acid | 5 ml | Cl | ClH
solvent | isopropyl alcohol | 50 ml | C(C)(C)O | C3H8O
product | 6-Fluoro-3-(3-pyrrolidinyl)-1,2-benzisoxazole hydrochloride | Cl.FC1=CC2=C(C(=NO2)C2CNCC2)C=C1 | InChI=1S/C11H11FN2O.ClH/c12-8-1-2-9-10(5-8)15-14-11(9)7-3-4-13-6-7;/h1-2,5,7,13H,3-4,6H2;1H
